US05668291
2,2'-Dithiobis[N-(4-fluorophenyl)benzamide]
This compound was prepared according to the general method of Example 77 using 2,2'-dithiobisbenzoyl chloride (1.00 g, 2.92 mmol) in 20 mL of dichloromethane and 4-fluoroaniline (0,657 g, 5.91 mmol) in 5 mL of pyridine. The crude product was triturated with hot ethanol-ethyl acetate mixture, filtered, and recrystallized from ethanol-DMF to yield 0.14 g of the title compound, mp 242°-244° C.

reactant | 2,2'-dithiobisbenzoyl chloride | 2.92 mmol, 1.00 g | C(C1=C(C=CC=C1)SSC1=C(C(=O)Cl)C=CC=C1)(=O)Cl | C14H8Cl2O2S2
reactant | 4-fluoroaniline | 5.91 mmol, 0,657 g | FC1=CC=C(N)C=C1 | C6H6FN
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | 2,2'-Dithiobis[N-(4-fluorophenyl)benzamide] | 0.14 g | FC1=CC=C(C=C1)NC(C1=C(C=CC=C1)SSC1=C(C(=O)NC2=CC=C(C=C2)F)C=CC=C1)=O | C26H18F2N2O2S2
